US07704991B2
3-(6-Nitro-quinolin-2-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (Intermediate)
Was prepared according to method A from 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester and 2-chloro-6-nitroquinoline. Decomp.

reactant | 3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CNCC1CC2 | C11H20N2O2
reactant | 2-chloro-6-nitroquinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
product | 3-(6-Nitro-quinolin-2-yl)-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C2=NC1=CC=C(C=C1C=C2)[N+](=O)[O-] | C20H24N4O4
